US07553842B2
Step A: Preparation of 3-(4-hydroxybutyl)dihydrofuran-2(3H)-one:
To a mixture of 3-iodo-dihydrofuran-2(3H)-one (15.0 g, 70.8 mmol) and but-3-en-1-ol (12.2 mL, 142 mmol) in water (680 mL) under an argon atmosphere was added a 1 M solution of triethylborane in EtOH (7.1 mL, 7.1 mmol). The flask was then charged with air and the reaction was stirred at room temperature for 2 hours. Solid NaHCO3 (35.7 g, 425 mmol) was added, followed by the careful addition of 50% hypophosphorous acid (39 mL, 360 mmol). After stirring at room temperature for 15 minutes, 2,2′-azobisisobutyronitrile (1.2 g, 7.1 mmol) was added and the reaction was heated to reflux for 1 hour. The reaction was cooled to room temperature, adjusted to pH=1 via the addition of 3% HCl, and then extracted three times with EtOAc. The organic layers were combined, dried over MgSO4 and concentrated under reduced pressure. The crude product was chromatographed (2:1 EtOAc/hexanes) to provide the product as a colorless oil (3.7 g, 33%).

reactant | 3-iodo-dihydrofuran-2(3H)-one | 70.8 mmol, 15.0 g | IC1C(OCC1)=O | C4H5IO2
reactant | but-3-en-1-ol | 142 mmol, 12.2 mL | C(CC=C)O | C4H8O
reactant | triethylborane | C(C)B(CC)CC | C6H15B
reactant | EtOH | 7.1 mmol, 7.1 mL | CCO | C2H6O
reactant | NaHCO3 | 425 mmol, 35.7 g | C(=O)(O)[O-].[Na+]
reactant | hypophosphorous acid | 360 mmol, 39 mL | [PH2](=O)O | H3O2P
reactant | 2,2′-azobisisobutyronitrile | 7.1 mmol, 1.2 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | HCl | Cl | ClH
solvent | water | 680 mL | O | H2O
product | 3-(4-hydroxybutyl)dihydrofuran-2(3H)-one | 3.7 g, 33% | OCCCCC1C(OCC1)=O | C8H14O3
